US08283454B2
Preparation of (2S,3R,4S,5S,6R)-2-(4-chloro-3-(4-methoxybenzyl)phenyl)-6-(hydroxymethyl)-2-methoxytetrahydro-2H-pyran-3,4,5-triol
A cold (−78° C.) solution of n-BuLi (124 mL, 2.5 M in hexane, 0.310 mol) was added dropwise under argon to a solution of 4-bromo-1-chloro-2-(4-methoxybenzyl)benzene (80 g, 0.258 mol) in dry THF/toluene (1:2 (v/v), 480 mL) cooled at −78° C. at such a rate as to keep the reaction temperature below −70° C. After the addition, the mixture was stirred for 40 min before transferred by a cannula to a stirred solution of (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)tetrahydro-2H-pyran-2-one (157 g, 0.335 mol) in toluene (480 mL) precooled to −78° C. at a rate as to keep the internal temperature below −70° C. The mixture was stirred for 3 h at −78° C. until starting material was consumed and was quenched slowly by hydrochloric acid (36˜38%, 47.3 mL, 0.567 mol) in methanol (320 mL), keeping the internal temperature below −45° C. The reaction mixture was gradually warmed to room temperature and stirred overnight. The mixture was neutralized with saturated sodium bicarbonate aqueous solution to pH 7.5. The organic layer was separated and the aqueous phase was extracted with ethyl acetate (2×1.0 L). The combined organic layers were washed with brine (2×1.0 L), dried over sodium sulfate, and concentrated. The residue was dried under vacuum at 40° C. to give the crude product as an off-white solid (111 g), which was used in the next step without further purification. Purity (HPLC) 66% (UV); MS ESI (m/z) 425[M+1]+.

reactant | n-BuLi | 0.310 mol, 2.5 M, 124 mL | [Li]CCCC
reactant | 4-bromo-1-chloro-2-(4-methoxybenzyl)benzene | 0.258 mol, 80 g | BrC1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)OC | C14H12BrClO
reactant | (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)tetrahydro-2H-pyran-2-one | 0.335 mol, 157 g | C[Si](O[C@H]1C(O[C@@H]([C@H]([C@@H]1O[Si](C)(C)C)O[Si](C)(C)C)CO[Si](C)(C)C)=O)(C)C | C18H42O6Si4
reactant | hydrochloric acid | 0.567 mol, 47.3 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF toluene | 480 mL | C1CCOC1.C1(=CC=CC=C1)C
solvent | toluene | 480 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 320 mL | CO | CH4O
product | (2S,3R,4S,5S,6R)-2-(4-chloro-3-(4-methoxybenzyl)phenyl)-6-(hydroxymethyl)-2-methoxytetrahydro-2H-pyran-3,4,5-triol | 111 g | ClC1=C(C=C(C=C1)[C@@]1(O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)OC)CC1=CC=C(C=C1)OC | C21H25ClO7
